US07795236B2
tert-Butyl N-(3′-propoxybiphenyl-4-ylmethyl)carbamate
To a solution of tert-butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate (0.300 g) in N,N-dimethylformamide (2.5 mL) was added potassium carbonate (0.194 g). Then 1-bromopropane (0.119 mL) was added, and the resulting mixture was stirred at room temperature for 9.5 hours. Potassium carbonate (0.180 g) and 1-bromopropane (0.110 mL) were added, and stirring was continued at room temperature for additional 14 hours. The reaction mixture was partitioned between diethyl ether (30 mL) and water (10 mL). The organic layer was washed successively with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.333 g).

reactant | tert-butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate | 0.300 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C18H21NO3
reactant | potassium carbonate | 0.194 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 0.119 mL | BrCCC | C3H7Br
reactant | Potassium carbonate | 0.180 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 0.110 mL | BrCCC | C3H7Br
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl N-(3′-propoxybiphenyl-4-ylmethyl)carbamate | 0.333 g | C(CC)OC=1C=C(C=CC1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C21H27NO3
